US09216975B2
Preparation of N-(4-(trifluoromethyl)benzyl)-2-amino-3-hydroxybenzamide 22a
2-amino-3-hydroxybenzoic acid (2 g, 13 mmol) was dissolved in 20 ml of DMF and at 0° C. EDCI (2.7 g, 1.2 equiv.), hydroxybenzotriazole (1.9 g, 1.2 equiv.) and 4-trifluoromethylbenzylamine (2 ml, 1.2 equiv.) were added. The mixture was stirred at rt for 20 hours. The solvent was evaporated and the crude was dissolved in AcOEt (30 ml) and washed with water (1×20 ml) and brine. The organic phase was dried over sodium sulfate and concentrated under vacuum. The purification of the crude residue by crystallization from EtOAc/ether gave 3.5 g of a beige solid. Yield=86% 1HNMR (DMSO, 200 MHz) δ 4.49 (2H, d, J=5.6 Hz), 6.00 (2H, bs), 6.41 (1H, t, J=8 Hz), 6.76 (1H, d, J=7.6 Hz), 7.11 (1H, d, J=8.2 Hz), 7.51 (2H, d, J=8 Hz), 7.69 (2H, d, J=8 Hz), 8.81 (1H, bt), 9.58 (1H, bs); [M+1] 311.1 (C15H13F3N2O2 requires 310.27).

reactant | 2-amino-3-hydroxybenzoic acid | 13 mmol, 2 g | NC1=C(C(=O)O)C=CC=C1O | C7H7NO3
reactant | EDCI | 2.7 g, 1.2 equiv. | CCN=C=NCCCN(C)C | C8H17N3
reactant | hydroxybenzotriazole | 1.9 g, 1.2 equiv. | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 4-trifluoromethylbenzylamine | 2 ml, 1.2 equiv. | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-(4-(trifluoromethyl)benzyl)-2-amino-3-hydroxybenzamide | 3.5 g, Yield=86% | FC(C1=CC=C(CNC(C2=C(C(=CC=C2)O)N)=O)C=C1)(F)F | C15H13F3N2O2
